US07297698B2
Into ethyl acetate was suspended 1.91 g of 6-(trifluoromethyl)nicotinic acid, and then 1.52 g of triethylamine and 3.03 g of DPPA were added thereto, followed by 3 hours of stirring. The reaction solution was washed with a saturated sodium bicarbonate aqueous solution and saturated saline and the solvent was removed by evaporation to obtain 2.0 g of 6-(trifluoromethyl)nicotinyl azide as a solid. The resulting acid azide was dissolved into 20 ml of toluene and the solution was heated and refluxed to convert the acid azide into 5-isocyanato-2-(trifluoromethyl)pyridine. Thereafter, 1 ml of methanol was added thereto at room temperature, followed by 1 hour of stirring. The reaction solution was washed with water and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was removed by evaporation to obtain 1.2 g of the title compound.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 6-(trifluoromethyl)nicotinic acid | 1.91 g | FC(C1=NC=C(C(=O)O)C=C1)(F)F | C7H4F3NO2
reactant | DPPA | 3.03 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | triethylamine | 1.52 g | C(C)N(CC)CC | C6H15N
product | 6-(trifluoromethyl)nicotinyl azide | 2.0 g | FC(C1=NC=C(CN=[N+]=[N-])C=C1)(F)F | C7H5F3N4
